US05985306
(±)-cis-4-(4-Hydroxyphenyl)-7-methoxy-3-(4-(trifluoromethyl)phenyl)chromane
Palladium on carbon (10%, 0.40 g, 0.4 mmol) was added to a stirred solution of 4-(4-hydroxyphenyl)-7-methoxy-3-(4-(trifluoromethyl)phenyl)chrom-3-ene (2.99 g, 7.51 mmol) in ethanol, (100 ml) and the mixture hydrogenated at room temperature for 24 h. The catalyst was removed by filtration, and the solvent evaporated to give an off-white solid which was purified by recrystallisation from 50 ml ethanol. This gave the first crop of product as colourless needles. The mother liquors were evaporated and the recrystallisation repeated from aqueous ethanol, to give a second crop of colourless needles. The solids were combined and vacuum dried.

reactant | 4-(4-hydroxyphenyl)-7-methoxy-3-(4-(trifluoromethyl)phenyl)chrom-3-ene | 7.51 mmol, 2.99 g | OC1=CC=C(C=C1)C1=C(COC2=CC(=CC=C12)OC)C1=CC=C(C=C1)C(F)(F)F | C23H17F3O3
catalyst | Palladium on carbon | 0.4 mmol, 0.40 g | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (±)-cis-4-(4-Hydroxyphenyl)-7-methoxy-3-(4-(trifluoromethyl)phenyl)chromane | OC1=CC=C(C=C1)[C@@H]1[C@@H](COC2=CC(=CC=C12)OC)C1=CC=C(C=C1)C(F)(F)F | C23H19F3O3
